US06355658B1
Synthesis of Ethyl 6-chloromethyl-2-oxo-2H-1-benzopyran-3-carboxylate
A mixture of 1 g of ethyl 6-hydroxymethyl-2-oxo-2H-1-benzopyran-3-carboxylate (3.9 mmol) and 10 ml of thionyl chloride is refluxed for 3 h. The solution obtained is evaporated under reduced pressure. The residue is re-suspended in 10 ml of dry toluene and the solvent is evaporated off under reduced pressure. The last two steps are repeated twice. The residue obtained is taken up in chloroform and the organic phase is washed three times with 0.1 N HCl solution and then dried over MgSO4. The solvent is removed by distillation under reduced pressure and the residue is recrystallized from CHCl3/Petroleum ether.

reactant | ethyl 6-hydroxymethyl-2-oxo-2H-1-benzopyran-3-carboxylate | 3.9 mmol, 1 g | OCC=1C=CC2=C(C=C(C(O2)=O)C(=O)OCC)C1 | C13H12O5
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 6-chloromethyl-2-oxo-2H-1-benzopyran-3-carboxylate | ClCC=1C=CC2=C(C=C(C(O2)=O)C(=O)OCC)C1 | C13H11ClO4
